US09255110B2
A mixture of N-(3-methoxy-4-nitro-phenyl)-acetamide (16.6 g, 78.67 mmol) and an aqueous solution of hydrochloric acid (1.5 M, 200 mL) was refluxed until a clear solution was obtained. The reaction mixture was basified by addition of an aqueous solution of potassium carbonate and then was extracted four times with dichloromethane (200 mL); the combined organic extracts were dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give 13.56 g (quantitative yield) of 3-methoxy-4-nitro-phenylamine as a yellow solid. MS=169 [M+H]+.

reactant | N-(3-methoxy-4-nitro-phenyl)-acetamide | 78.67 mmol, 16.6 g | COC=1C=C(C=CC1[N+](=O)[O-])NC(C)=O | C9H10N2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 1.5 M, 200 mL | Cl | ClH
product | 3-methoxy-4-nitro-phenylamine | 13.56 g, quantitative yield | COC=1C=C(C=CC1[N+](=O)[O-])N | C7H8N2O3
